US07666878B2
(1-Benzyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid
1M Aqueous NaOH (364 μL, 0.364 mmol) is added to a stirring solution of (1-benzyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (65 mg, 0.22 mmol) in 5:1 THF/MeOH (2.4 mL). After 5.5 hours, the reaction is evaporated, and partitioned between water and EtOAc. The aqueous layer is acidified to pH 3, and the resulting precipitate collected by filtration to furnish 1-benzyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid; MH+=281.

reactant | NaOH | 0.364 mmol, 1M, 364 μL | [OH-].[Na+]
reactant | (1-benzyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.22 mmol, 65 mg | COC(CC1=C(N(C2=NC=CC=C21)CC2=CC=CC=C2)C)=O | C18H18N2O2
solvent | THF MeOH | 2.4 mL | C1CCOC1.CO
product | (1-Benzyl-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid | C(C1=CC=CC=C1)N1C(=C(C=2C1=NC=CC2)CC(=O)O)C | C17H16N2O2
